US07528147B2
2-[5,6-Dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-indol-1-yl]-1-(4-hydroxypiperidin-1-yl)ethanone is prepared by following the procedure described in example 93, but using 0.2 g of 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetic acid and 0.07 g of 4-hydroxypiperidine. After purification by flash-pack chromatography (silica, 98/02 by volume dichloromethane/methanol as eluents), 0.096 g of 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-indol-1-yl]-1-(4-hydroxypiperidin-1-yl)ethanone is obtained, the characteristics of which are as follows:

reactant | 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetic acid | 0.2 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)O)C1=CC=2C(=NC=CC2)N1 | C19H17N3O4
reactant | 4-hydroxypiperidine | 0.07 g | OC1CCNCC1 | C5H11NO
product | 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-indol-1-yl]-1-(4-hydroxypiperidin-1-yl)ethanone | 0.096 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)N1CCC(CC1)O)C1=CC=2C(=NC=CC2)N1 | C24H26N4O4
